* source P1
R_R6         0 N00682  220 TC=0,0 
D_D2         N00797 N00801 D1N4148 
C_C2         0 N00670  220n  TC=0,0 
R_R8         N11870 N00785  2k TC=0,0 
D_D1         N00801 N00797 D1N4148 
C_C1         N00641 N00797  220n  TC=0,0 
C_C3         0 N00682  4.7u  TC=0,0 
C_C4         N00661 N00801  4.7u  TC=0,0 
V_V1         N00785 0 11Vdc
R_R10         N00797 N00785  220 TC=0,0 
R_R3         N00661 0  3.3k TC=0,0 
Q_Q2         N00775 N00670 N00661 BC846B 
Q_Q3         N00797 N00775 N00682 BC846B 
R_R9         N00797 N05249  150k TC=0,0 
Q_Q4         N05225 N05249 N05208 BC846B 
R_R12         N05225 N00785  1k TC=0,0 
Q_Q5         N69604 N05225 N05208 BC846B 
R_R15         0 N05208  51 TC=0,0 
R_R13         N36319 N00785  1k TC=0,0 
Q_Q1         N00775 N11908 N11870 BC856B 
X_D3         N11908 N00785 awbbzx84c2v7 PARAMS:               
R_R7         0 N11908  2.2k TC=0,0 
X_R4         N00670 N00670 N51342 POT PARAMS: SET=0.7 VALUE=10k
X_R1         N00641 N00641 N52760 POT PARAMS: SET=0.7 VALUE=10k
C_C5         0 N40487  1u  TC=0,0 
R_R2         N00670 N52760  100 TC=0,0 
R_R5         N00682 N51342  100 TC=0,0 
R_R14         N69604 N36319  4.7k TC=0,0 
R_R22         N888151 N40487  22k TC=0,0 
Q_Q6         N89199 N888151 N89133 BC856B 
R_R23         0 N89133  100k TC=0,0 
R_R24         N89199 N91331  1k TC=0,0 
R_RL         0 N89765  400 TC=0,0 
C_C8         N89133 N89765  1n  TC=0,0 
R_R25         N40487 N36319  4.7k TC=0,0 
X_R11         N91331 N00785 N00785 POT PARAMS: SET=1 VALUE=10k
